US04710507
t-Butyl lithium (4.6 cm3 of a 2.6M solution in pentane) was added dropwise to a stirred solution of 2-methoxy-6-bromoquinoline (1.43 g) in THF (10 cm3) at -70° under nitrogen. After 20 minutes a solution of pyrazine (0.48 g) in THF (5 cm3) was added and after stirring for a further 20 minutes a stream of dry air was bubbled through the solution for 0.5 hour at -70° and then for a further 1 hour as the mixture warmed to room temperature. Chloroform (50 cm3) was added and the solution was washed with water (10 cm3), dried (MgSO4) and concentrated in vacuo to afford a residue which was chromatographed on silica (Merck "MK 60.9385") eluting with ethyl acetate:hexane, 1:1, to give a solid. Recrystallisation from ethyl acetate gave 2-methoxy-6-(2-pyrazinyl)quinoline. 1/4H2O, m.p. 130°-132°, (0.22 g).

reactant | t-Butyl lithium | C(C)(C)(C)[Li]
reactant | 2-methoxy-6-bromoquinoline | 1.43 g | COC1=NC2=CC=C(C=C2C=C1)Br | C10H8BrNO
reactant | pyrazine | 0.48 g | N1=CC=NC=C1 | C4H4N2
solvent | pentane | CCCCC | C5H12
solvent | THF | 10 cm3 | C1CCOC1 | C4H8O
solvent | THF | 5 cm3 | C1CCOC1 | C4H8O
product | 2-methoxy-6-(2-pyrazinyl)quinoline | COC1=NC2=CC=C(C=C2C=C1)C1=NC=CN=C1 | C14H11N3O
